US03952093
Chromium trioxide (0.56 g. 5.6 mM) is added to a stirred solution of pyridine (0.90 g. 11.4 mM) in methylene chloride (14 ml). The flask is stoppered with a Drieritefilled tube. The deep red solution is stirred for approximately fifteen minutes at room temperature after which a solution of cis-9-tetradecen-1-ol (0.9 mM) in a small amount of methylene chloride (approximately 0.2 ml) is added rapidly and the mixture stirred for another 15 minutes. The product is recovered by decantation from the tarry precipitate, concentrated in vacuo, and the residue extracted with redistilled petroleum ether (Skelly B). This extract is washed successively with dilute aqueous hydrochloric acid (approximately 1%), brine, dilute aqueous sodium bicarbonate (approximately 5%), and brine (until neutral), then filtered through anhydrous magnesium sulfate and evaporated in vacuo to yield 0.17 g. G.c. analysis showed the product contained cis-9-tetradecen-1-ol in approximately 1:9 ratio to the aldehyde, so the product was chromatographed on Florisil (2.4 cm o.d. × 30 cm; packed up to 25 cm) using redistilled benzene (15 ml fractions). Fractions 4 - 7 are combined. Final yield of alcohol-free cis-9-tetradecenal is 60 mg. In accordance with the foregoing procedure but starting with cis-11-hexadecenal in place of cis-9-tetradecenal, there is obtained crude cis-5-hexadecenal (0.19 g.) and alcohol-free cis-11-hexadecenal (0.10 g.).

reactant | pyridine | 11.4 mM, 0.90 g | N1=CC=CC=C1 | C5H5N
reactant | cis-9-tetradecen-1-ol | 0.9 mM | C(CCCCCCC\C=C/CCCC)O | C14H28O
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
catalyst | Chromium trioxide | 5.6 mM, 0.56 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | methylene chloride | approximately 0.2 ml | C(Cl)Cl | CH2Cl2
product | cis-5-hexadecenal | 0.19 g | C(CCC\C=C/CCCCCCCCCC)=O | C16H30O
